US07939690B2
3-Bromo-5-chloro-N-(2-chloro-4-trifluoromethanesulfonylphenyl)-2-hydroxy-6-methylbenzamide is synthesized from 3-bromo-5-chloro-2-hydroxy-6-methylbenzoic acid and 2-chloro-4-(trifluoromethanesulfonyl)aniline by General Procedure F.

reactant | 3-bromo-5-chloro-2-hydroxy-6-methylbenzoic acid | BrC=1C(=C(C(=O)O)C(=C(C1)Cl)C)O | C8H6BrClO3
reactant | 2-chloro-4-(trifluoromethanesulfonyl)aniline | ClC1=C(N)C=CC(=C1)S(=O)(=O)C(F)(F)F | C7H5ClF3NO2S
product | 3-Bromo-5-chloro-N-(2-chloro-4-trifluoromethanesulfonylphenyl)-2-hydroxy-6-methylbenzamide | BrC=1C(=C(C(=O)NC2=C(C=C(C=C2)S(=O)(=O)C(F)(F)F)Cl)C(=C(C1)Cl)C)O | C15H9BrCl2F3NO4S
